US04209515
8.66 g (0.020 mole) of 1-[2-(o-chlorobenzoyl)-4-chlorophenyl]-5-[(dimethylamino)-methyl]-1H-1,2,4-triazole-3-carboxylic acid methyl ester is covered over with 400 ml of methanol and 80 ml of concentrated aqueous ammonia solution. The reaction solution is stirred for 16 hours at room temperature, and thereupon concentrated in vacuo to dryness. Water is added to the residue and extraction is performed twice with methylene chloride. The organic phase is washed twice with ice-cold 1 N sodium hydroxide solution and is then extracted twice with 2 N hydrochloric acid solution. To the aqueous acidified solutions there are added ice and sufficient 5 N sodium hydroxide solution to bring the pH-value to 10. The precipitated base is taken up in methylene chloride. The organic phase is washed twice with water and once with saturated sodium chloride solution; it is dried over sodium sulphate and concentrated by evaporation to dryness. The amorphous residue is triturated with ether, whereupon the reaction product precipitates in crystalline form. It is filtered off with suction and washed with ether. After drying, there is obtained 1-[2-(o-chlorobenzoyl)-4-chlorophenyl]-5-[(dimethylamino)-methyl]-1H-1,2,4-triazole-3-carboxamide, m.p. 177°-180°.

reactant | 1-[2-(o-chlorobenzoyl)-4-chlorophenyl]-5-[(dimethylamino)-methyl]-1H-1,2,4-triazole-3-carboxylic acid methyl ester | 0.020 mole, 8.66 g | COC(=O)C1=NN(C(=N1)CN(C)C)C1=C(C=C(C=C1)Cl)C(C1=C(C=CC=C1)Cl)=O | C20H18Cl2N4O3
reactant | ammonia | 80 ml | N | H3N
solvent | methanol | 400 ml | CO | CH4O
product | 1-[2-(o-chlorobenzoyl)-4-chlorophenyl]-5-[(dimethylamino)-methyl]-1H-1,2,4-triazole-3-carboxamide | ClC1=C(C(=O)C2=C(C=CC(=C2)Cl)N2N=C(N=C2CN(C)C)C(=O)N)C=CC=C1 | C19H17Cl2N5O2
